US07799814B2
Step II: Preparation of 1-[4-Methyl-2-(1H-pyrazol-3-ylamino)-1,3-thiazol-5-yl]ethanone
To a solution of N-1H-pyrazol-3-ylthiourea (5 g, 0.0352 mol) in absolute ethanol (50 ml) is added 3-chloro-2,4-pentanedione (4.78 g, 0.0352 mol) and the mixture is refluxed for 20 h under nitrogen. The reaction mixture is cooled down to rt and the resulting precipitate is filtered, washed with ethanol (25 ml) and dried under suction to afford the desired product as hydrochloride salt. It is neutralized with 10% solution of sodium bicarbonate, filtered and dried to afford 1-[4-Methyl-2-(1H-pyrazol-3-ylamino)-1,3-thiazol-5-yl]ethanone as pale brown solid (5 g, 64%). 1H NMR (CD3OD, 300 MHz): δ 2.49 (s, 3H), 2.61 (s, 3H), 6.14 (br s, 1H), 7.62 (br s, 1H). HPLC (Method B), Rt: 4.31 min (purity: 98.07%). TLC—Chloroform/methanol (8/2): Rf 0.4. Mp: 224-227° C.

reactant | N-1H-pyrazol-3-ylthiourea | 0.0352 mol, 5 g | N1N=C(C=C1)NC(=S)N | C4H6N4S
reactant | 3-chloro-2,4-pentanedione | 0.0352 mol, 4.78 g | ClC(C(C)=O)C(C)=O | C5H7ClO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[4-Methyl-2-(1H-pyrazol-3-ylamino)-1,3-thiazol-5-yl]ethanone | CC=1N=C(SC1C(C)=O)NC1=NNC=C1 | C9H10N4OS
